US07737166B2
2-Cyclopropyl-6-ethyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile (I-181)
2-Cyclopropyl-7-fluoro-5-methyl-6 vinyl-1,3-benzoxazole-4-carbonitrile (I-180) (114 mg, 0.47 mmol) was dissolved in ethyl acetate (2.5 ml), then at room temperature, 10% palladium-carbon (23 mg) was added. The suspension was stirred at the same temperature under atmospheric pressure of hydrogen for 16 hours. The catalyst was separated by filtration with washing with ethyl acetate, and the filtrate was concentrated under reduced pressure. The residue was purified by preparative TLC (eluent, ethyl acetate:hexane=1:2) to obtain the entitled compound (110 mg, 96%) as a white solid.

reactant | 2-Cyclopropyl-7-fluoro-5-methyl-6 vinyl-1,3-benzoxazole-4-carbonitrile | 0.47 mmol, 114 mg | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2F)C=C)C)C#N | C14H11FN2O
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 2.5 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 23 mg | [C].[Pd]
product | 2-Cyclopropyl-6-ethyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile | 110 mg, 96% | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2F)CC)C)C#N | C14H13FN2O
